data/mechanisms/records/IMS4-EQ4.7.json
{"mechanism_id": "IMS4-EQ4.7", "species": [{"species_id": "ethane_molecular_ion", "mapped_smiles": "[CH3:1][CH3:2]", "role": "precursor_ion", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "methyl_cation", "mapped_smiles": "[CH3+:2]", "role": "product_ion", "charge": 1, "radical_electrons": 0, "spin_multiplicity": 1, "detected": false}, {"species_id": "methyl_radical", "mapped_smiles": "[CH3:1]", "role": "neutral_radical", "charge": 0, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}], "states": [{"state_id": "state_precursor", "species_ids": ["ethane_molecular_ion"]}, {"state_id": "state_products", "species_ids": ["methyl_cation", "methyl_radical"]}], "steps": [{"step_id": "step_sigma_dissociation", "from_state": "state_precursor", "to_state": "state_products", "step_class": "sigma_dissociation", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "bond", "atom_maps": [1, 2]}, "target": {"type": "atom", "atom_maps": [1]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [1, 2]}, "target": {"type": "external", "atom_maps": []}, "electron_count": 1}], "reaction_smirks": null, "reversible": false}], "evidence": [{"evidence_id": "evidence_step", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_sigma_dissociation", "support_type": "textbook_proposed", "locator": {"page": 56, "equation": "4.7", "section": "4.5 Sigma-bond dissociation"}, "confidence": 0.85, "curator_note": "Generic scheme R(+.)CR3 -> R. + (+)CR3: a saturated-alkane sigma C-C bond is ionized and dissociates, the charge going to the more-substituted carbon and the odd electron to the leaving alkyl radical. Instantiated by the curator as ETHANE (R = CR3 = CH3), the example the surrounding text discusses ('ionization of ethane increases the C-C bond length by ~30% and halves its bond dissociation energy'); by symmetry it gives CH3(+) + CH3(.). REPRESENTATION CAVEAT (honest): the saturated-alkane molecular ion is a sigma radical cation whose odd electron occupies the one-electron C-C bond and is NOT localizable on any single atom -- the book draws '+.' straddling the C-C bond, not on an atom. A CnH(2n+2) radical cation has no connected integer-bond Lewis/RDKit structure at all (37 valence electrons for ethane-> 6 two-electron bonds + 1 unpaired e-, i.e. one fewer bond than the 7 needed to connect 8 atoms), so the precursor mapped_smiles necessarily shows the NEUTRAL C-C skeleton (the real origin of the arrows) while the species charge=1/radical_electrons=1 fields record that it is the M+.. Book draws 0 curved arrows/fishhooks; the mechanism is denoted by the 'sigma' label over the reaction arrow. The two encoded moves are curator-supplied for a complete, balanced electron flow and map onto the book's own words: move <1> routes one electron of the C-C sigma bond to the leaving carbon (-> CH3.), move <2> routes the other sigma electron to EXTERNAL -- this IS the ionization the book states removes an electron 'from the saturated bond framework', leaving CH3(+). No arc is misrepresented as drawn."}], "ms_context": {"ionization_method": "EI", "polarity": "positive", "adduct": "[M]+•", "activation_method": "electron ionization", "electron_energy_ev": 70.0, "precursor_mz": 30.0464, "precursor_charge": 1, "instrument_type": "unspecified"}, "peak_assignments": [{"peak_id": "peak_methyl_cation", "species_id": "methyl_cation", "step_id": "step_sigma_dissociation", "observed_mz": 15.0229, "status": "inferred", "confidence": 0.5}], "curation": {"schema_version": "1.0.0", "record_version": 1, "extraction_method": "vision_multiagent", "review_status": "unreviewed", "created_at": "2026-07-24T00:00:00Z", "modified_at": "2026-07-24T00:00:00Z"}}
